Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP with sphincterotomy
 
History of Present Illness:
HMED Hospitalization Note
Date of note: ___

PCP:  ___ with Dr. ___ at ___

CC:  ___ pain

HPI: Ms. ___ is an ___ female with previous 
cholecystectomy who presents with abdominal pain. Pt reportedly 
had gradual onset of abdominal pain and non-bloody vomiting 
today with subjective fevers, as well as lethargy.  The symptoms 
came on just over the day that preceded her presentation.  She 
was brought to ___ where she was found to have elevated 
transaminases and choledocholithiasis with borderline fever.  
She was given Unasyn, Zofran, 2 liters of NS and transferred for 
evaluation by ERCP. Here received another dose of unasyn and 
morphine for pain.

At present, she is s/p ERCP with finding of stones, with 
sphincterotomy, stent placement, and balloon sweep.  She has 
some epigastric pain with deep palpation, and chronic dizziness, 
mostly when changing positions.  

Her granddaughter-in-law notes no significant weight gain, and 
says that she has otherwise been stable, with no other symptoms. 
 She is sometimes forgetful, and weak.

 
Past Medical History:
PMH: 
Per granddaughter - hypertension, seasonal allergies, Meniere's 
Disease, Stage II CKD, 
 
Social History:
___
Family History:
___:
No known family history of gallstones.
 
Physical Exam:
      

Physical exam
98.1 PO 157 / 77 R Lying 75 16 92 RA 
Gen:  In NAD, lying in bed, comfortable.
HEENT:  PERRL, EOMI.  Slight scleral icterus.  No conjunctival 
injection.   Mucous membranes moist.  No oral ulcers.
Neck:  Supple, no LAD, no JVP elevation.
Resp: CTA bilaterally, no wheezes, rales, rhonchi.  Normal 
respiratory effort.
CV:  RRR, no murmurs, rubs, gallops.
Gastrointestinal:  soft, tender to deep palpation in 
epigastrium, no rebound or guarding.
Musculoskeletal:  warm and well perfused, no cyanosis, clubbing, 
edema.
Neurological:  alert and oriented to person, not to place or 
date (stable per granddaughter).  Moving all extremities.
Dermatologic:  No rashes or ulcers.
Psychiatric:  Appropriate.

 
Pertinent Results:
___ 11:10PM BLOOD WBC-10.1* RBC-3.58* Hgb-10.9* Hct-33.8* 
MCV-94 MCH-30.4 MCHC-32.2 RDW-13.5 RDWSD-46.1 Plt ___
___ 11:10PM BLOOD Neuts-78.3* Lymphs-16.7* Monos-4.6* 
Eos-0.0* Baso-0.0 Im ___ AbsNeut-7.90* AbsLymp-1.68 
AbsMono-0.46 AbsEos-0.00* AbsBaso-0.00*
___ 11:10PM BLOOD ___ PTT-29.1 ___
___ 11:10PM BLOOD Glucose-158* UreaN-21* Creat-0.9 Na-141 
K-4.2 Cl-105 HCO3-21* AnGap-19
___ 11:10PM BLOOD ALT-89* AST-151* AlkPhos-475* 
TotBili-2.7*
___ 11:10PM BLOOD Lipase-33
___ 11:10PM BLOOD Albumin-3.3*
___ 11:22PM BLOOD Lactate-1.6

CT A/P W/IV   NO ORAL
Accession ___: ___.
Date/Time of ___ 19:38:16
Reason for Exam: nausea, tachypnea, abdominal pain ?acute 
process
 
Dose Report
Topogram CTDIvol: 0.13 mGy
Body Region CTDIvol:    
DLP: 364.___bdomen and pelvis acquired in the axial plane 
following
IV administration of 80 mL Omnipaque 350. Reformatted coronal 
and
sagittal images also generated. No prior exams for comparison.
 
Peribronchial thickening and increased interstitial lung 
markings at
both lung bases, may be chronic. No consolidative infiltrate or
pleural effusion identified.
 
S/P prior cholecystectomy. Multiple noncalcified biliary stones 
in
dilated common bile duct. 4 visualized calculi measure 1.5 - 2 
cm in
greatest dimension. Common bile duct measures 2.1 cm. 
Intrahepatic
bile ducts are dilated. Liver and spleen normal in size, shape 
and
attenuation. Pancreas is unremarkable without evidence of
inflammation. 3.5 cm duodenal diverticulum. Adrenal glands are 
normal.
Kidneys unremarkable without evidence of stones or 
hydronephrosis.
Aorta and iliac arteries are densely calcified. No evidence of 
AAA. No
evidence of gross retroperitoneal lymphadenopathy.
 
No evidence of bowel obstruction or obvious inflammation. Normal
appendix. No ascites in the pelvis. No free intraperitoneal air
identified.
 
IMPRESSION:
1. Choledocholithiasis with associated biliary obstruction as
detailed.
2. Extensive ASVD.
 
Electronically Signed ___ M.D. ___ 8:06 ___

ERCP:
Limited exam of the esophagus was normal
•Limited exam of the stomach was normal
•Limited exam of the duodenum was normal
•The scout film revealed surgical clips in the RUQ. 
•The major papilla was on the lateral rim of a large 
periampullary diverticulum. 
•The major papilla appeared normal. 
•The CBD was successfully cannulated ith the CleverCut 3V 
sphincterotome preloaded with a 0.025in guidewire. 
•The guidewire was advanced into the intrahepatic biliary tree.
•Contrast injection revealed a severely dilated CBD to the level 
of the ampulla to approximately 25mm in diameter and several 
large filling defects consistent with stones in the proximal, 
mid and distal CBD.
•The intrahepatic biliary tree appeared moderately dilated. 
•A sphincterotomy was successfully performed at the 12 o'clock 
position. 
•No post sphincterotomy bleeding was noted. 
•Balloon sphincterotomy was then successfully performed with a 
CRE balloon dilator to 15mm in diameter.
•The CBD was swept several times with successful removal of 4 
large stones and large amounts of sludge and debris material.
•A large retained stone in the proximal CBD was successfully 
removed with the 30mm LithoCrush basket. due to stone burden, a 
___ X 5cm Advanix double pigtail biliary stent was successfully 
placed across the ampulla with the proximal end into the left 
intrahepatic biliary tree. 
•There was excellent spontaneous drainage of bile and constrast 
at the end of the procedure.
•The PD was not injected or cannulated. 

Discharge labs:

___ 07:15AM BLOOD WBC-6.9 RBC-3.37* Hgb-10.5* Hct-31.8* 
MCV-94 MCH-31.2 MCHC-33.0 RDW-13.6 RDWSD-47.1* Plt ___
___ 07:15AM BLOOD Glucose-80 UreaN-17 Creat-0.8 Na-139 
K-3.6 Cl-103 HCO3-24 AnGap-16
___ 07:15AM BLOOD ALT-73* AST-85* AlkPhos-352* TotBili-2.0*
 
Brief Hospital Course:
Ms. ___ is an ___ yo female with prior CCY and hypertension here 
with abdominal pain, found to have large gall stones with 
obstruction, with sphincterotomy performed and stent placed.  
She is doing well post procedure, but had a large sphincterotomy 
and very large stones, and is at high risk for post ercp 
pancreatitis.  She seems to be at her baseline mental status 
according to her grandmother.  There was no evidence for 
cholangitis on ERCP, and no frank fevers or leukocytosis 
suggestive of cholangitis.

##  Choledocholithiasis, with obstruction

She was hospitalized, placed on IV fluids with symptomatic 
treatment with Zofran and morphine.  Repeat lfts showed 
improvement. Her diet was advanced and she was discharged with 
follow up with ERCP for repeat study in ___ weeks for stent 
removal. 

Chronic medical problems:

##  Hypertension 
- continued lisinopril for tonight
- hold aspirin for 5 days

##  Likely seasonal allergies
- continued loratadine

## Meniere's Disease
- monitor clinically

Prophylaxis:  anticipate short stay.  Code status not addressed.
Health care proxy: ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. biotin 1,000 mcg oral DAILY 
3. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID 
4. Fish Oil (Omega 3) 1000 mg PO DAILY 
5. Lisinopril 10 mg PO DAILY 
6. Loratadine 10 mg PO DAILY 
7. Ranitidine 150 mg PO BID 
8. Tab-A-Vite (multivitamin) 1  oral DAILY 
9. Meclizine 12.5 mg PO TID:PRN dizziness 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H  
2.  biotin 1,000 mcg oral DAILY  
3.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID  
4.  Fish Oil (Omega 3) 1000 mg PO DAILY  
5.  Lisinopril 10 mg PO DAILY  
6.  Loratadine 10 mg PO DAILY  
7.  Meclizine 12.5 mg PO TID:PRN dizziness  
8.  Ranitidine 150 mg PO BID  
9.  Tab-A-Vite (multivitamin) 1  oral DAILY  
10. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Choledocholithiasis
Hypertension
Anemia
 
Discharge Condition:
ambulating, tolerating diet, stable vital signs.
 
Discharge Instructions:
You were admitted with a blockage in your bile duct, which was 
improved with a procedure.

You will need to come back for another procedure in ___ weeks.  
The doctors ___ contact ___.
 
Followup Instructions:
___